US08957070B2
Ethyl 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 7-amino-1H-indole-2-carboxylate (0.40 g), thiophene-2-carboxylic acid (0.28 g), ethyldiisopropylamine (0.75 mL), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.82 g) and N,N-dimethylformamide (10 mL) was stirred at 60° C. for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=3:97-3:7) to give the title compound (510 mg, yield 83%) as a pale-yellow amorphous solid.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 0.40 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | thiophene-2-carboxylic acid | 0.28 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | ethyldiisopropylamine | 0.75 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.82 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Ethyl 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylate | 510 mg, yield 83% | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C16H14N2O3S
